US08895572B2
Step G: (5R,6S,8S)-5-Methyl-6-phenyl-3-[1-(trifluoromethyl)cyclopropyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine-8-amine
To a solution of crude tert-butyl {(5R,6S,8S)-5-methyl-6-phenyl-3-[1-(trifluoromethyl)cyclopropyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine-8-yl}carbamate (136 mg, 0.31 mmol) in dichloromethane (3.1 mL) was added trifluoroacetic acid (721 μL, 9.4 mmol) and the resulting mixture stirred 30 min. Saturated aqueous bicarbonate was added, and the resulting mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by reverse chromatography (C-18, 95% water/acetonitrile 25% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (38 mg). MS 337.2 (M+1).

reactant | tert-butyl {(5R,6S,8S)-5-methyl-6-phenyl-3-[1-(trifluoromethyl)cyclopropyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine-8-yl}carbamate | 0.31 mmol, 136 mg | C[C@@H]1[C@@H](C[C@@H](C=2N1C(=NN2)C2(CC2)C(F)(F)F)NC(OC(C)(C)C)=O)C2=CC=CC=C2 | C22H27F3N4O2
reactant | trifluoroacetic acid | 9.4 mmol, 721 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | bicarbonate | C([O-])(O)=O
solvent | dichloromethane | 3.1 mL | ClCCl | CH2Cl2
product | (5R,6S,8S)-5-Methyl-6-phenyl-3-[1-(trifluoromethyl)cyclopropyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine-8-amine | 38 mg | C[C@@H]1[C@@H](C[C@@H](C=2N1C(=NN2)C2(CC2)C(F)(F)F)N)C2=CC=CC=C2 | C17H19F3N4
